US08349860B2
A mixture of 3-nitro-1-phenyl-1H-pyrrole (410 mg, 2.18 mmol) and SnCl2 dihydrate (2.00 g, 8.86 mmol) in EtOAc (15 mL) was stirred at 80 C for 3 h. Aqueous 1N NaOH was added to bring pH to 12. The mixture was filtered through celite. The organic phase was separated, washed with 5% NaHCO3, dried over Na2SO4, concentrated in vacuo to give 1-phenyl-1H-pyrrol-3-amine as a solid (323 mg).

reactant | 3-nitro-1-phenyl-1H-pyrrole | 2.18 mmol, 410 mg | [N+](=O)([O-])C1=CN(C=C1)C1=CC=CC=C1 | C10H8N2O2
reactant | NaOH | 1N | [OH-].[Na+]
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 1-phenyl-1H-pyrrol-3-amine | 323 mg | C1(=CC=CC=C1)N1C=C(C=C1)N | C10H10N2
